Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left lower jaw pain
 
Major Surgical or Invasive Procedure:
I and D, wick placement by ___ ___

 
History of Present Illness:
Mr. ___ is a ___ y/o M w/ ADHD, chronic tinnitus w/ hearing
aides, and ongoing smoking who presented c/o left jaw pain ___.
Reports toothache began 2.5 weeks ago in left lower molar.  1
week ago became more painful and he sought out dental care. As 
of
last ___ (1 week ago), had no swelling, and his dentist
planned an extraction for the coming week.  Then from ___ to
___, developed severe pain & swelling, so extraction was
performed ___ AM.  ___ ___ the swelling was improving
and pain decreasing, but then late ___ evening the pain 
and
swelling began to increase. Went to work yesterday, but with
increasing pain and swelling, he contacted his dentist who
advised he go to the ED.  He notes that the swelling on arrival
to the ED was very tender and much harder than it had been prior
to the original tooth extraction.  Currently the pain is 
present,
but not as severe as on initial presentation. Pain meds were
helping, but he feels that they are starting to wear off. He is
hungry and wants to eat.

Denies recent fevers, chills, vision changes, hearing
loss/tinnitus above his chronic baseline, sore throat,
odynophagia, cough, SOB, pleuritic pain, CP, nausea, vomiting,
abdominal pain, diarrhea, dysuria, leg swelling, or skin rashes.

In the ED he was started on unasyn and an attempt was made to 
I&D
the dental abscess and place a wick.  I&D was not able to be
completed due to pain. Patient expressed his severe
dissatisfaction to me re: the I&D attempt in the ED, and said he
would not allow Dr. ___ to perform any additional procedures on
him in the future.

 
Past Medical History:
PMHx:
- ADHD: on Adderall on & off for the past ___ years
- Tinnitis: chronic, bilateral, uses hearing aides occasionally
- Tobacco abuse/dependence: chronic, currently ___ smokes" per
day

PSHx:
- Hx of median nerve graft in right arm ___ years ago after
work-related injury
- Hx of 2 lipomas removed from his back in ___

FHx:
-Mother: arthritis NOS, chronic cough NOS
-Father: died of liver cancer (did not drink EtOH)
-Siblings: 1 sister who is healthy

SHx:
___
Family History:
see above
 
Physical Exam:
Gen: NAD, appears well, sitting up
HEENT: prominent left facial swelling (submaxillary and
perimandibular) with trace erythem; s/p
tooth #7 extraction; no pus visualized on limited oral exam; jaw
aROM limited by pain; grossly normal hearing; wick in place
Neck: +left anterior cervical lymphadenopathy without tenderness
Chest: CTAB, normal WOB
Cardiovasc: RR, no m/r/g, 2+ radial and DP pulses, no peripheral
edema
Abd: Soft, NT, ND, BS+
MSK: grossly normal strength 
Neuro: AAOx4, clear speech, EOMI, conversant
Psych: calm and cooperative
 
Pertinent Results:
___ 06:30AM BLOOD WBC-7.8 RBC-4.42* Hgb-13.8 Hct-40.5 
MCV-92 MCH-31.2 MCHC-34.1 RDW-12.9 RDWSD-42.8 Plt ___
___ 04:00AM BLOOD WBC-10.9* RBC-4.25* Hgb-13.4* Hct-39.0* 
MCV-92 MCH-31.5 MCHC-34.4 RDW-13.3 RDWSD-45.1 Plt ___
___ 04:00AM BLOOD Glucose-91 UreaN-19 Creat-0.9 Na-140 
K-4.2 Cl-102 HCO3-22 AnGap-16
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male w/ ADHD, chronic tinnitus w/ hearing 
aides, and ongoing smoking who presents c/o left jaw pain  due 
to dental abscess in the setting of recent tooth extraction for, 
presumably, an infected tooth.  Clinically stable with
ongoing significant pain s/p attempted I&D in ED.  ___ saw 
patient again on ___ - pt ok to DC with f/u today with his OP 
dentist. pain and swelling improving. no fevers, wbc trending 
down. s/p 24h unasyn, switching to augmentin on DC and course 
can be revised by OP dentist/OMFS.

# Left facial & jaw pain
# Left mandibular dental abscess
# Recent tooth extraction
- s/p attempted I&D in ED by ___
- s/p 24h unasyn, transition to augmentin
- continue Peridex rinse BID per OMFS recs
- pain control w/ standing Tylenol, advil
- OK to eat per OMFS
- f/u with OP dentist at 2pm today

# ADHD
- continue home Adderall XR 20 mg PO BID

# Tobacco abuse & nicotine dependence
- counseled smoking cessation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 20 mg PO BID 
2. Ibuprofen 200-600 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6h prn Disp #*30 
Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 875 mg by mouth 
twice a day Disp #*14 Tablet Refills:*0 
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate [Peridex] 0.12 % 15 cc by mouth 
twice a day Refills:*0 
4.  Ibuprofen 600 mg PO Q6H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0 
5.  Amphetamine-Dextroamphetamine XR 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dental Abscess s/p I and D

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow up with your dentist today at 2pm. if for any 
reason you cannot see your dentist, you are able to book same 
day appointment at our outpatient clinic ___ clinic) 
via calling ___ at 7:00am on ___ to try to book a 
same day appointment. It is first comes-first serves appointment 
so make sure to call at 7:00am sharp. 

 
Followup Instructions:
___